US07705027B2
3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-4-oxo-4H-chromene-8-carbaldehyde
3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one (0.35 g, 1 mmol) and hexamethylene tetramine (0.14 g, 1 mmol) were dissolved in glacial acetic acid (20 ml) and heated overnight at 100° C. Warm 6M HCl (10 ml) was added and the mixture heated for a further hour before being poured in to water. The precipitate formed was filtered, washed and dried to provide the pure desired product as a pale brown solid.

reactant | 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one | 1 mmol, 0.35 g | BrC1=CC=C(C=C1)C1=COC2=CC(=C(C=C2C1=O)Cl)O | C15H8BrClO3
reactant | hexamethylene tetramine | 1 mmol, 0.14 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | HCl | 6M, 10 ml | Cl | ClH
reactant | water | O | H2O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Bromo-phenyl)-6-chloro-7-hydroxy-4-oxo-4H-chromene-8-carbaldehyde | BrC1=CC=C(C=C1)C1=COC2=C(C(=C(C=C2C1=O)Cl)O)C=O | C16H8BrClO4
